US07714126B2
With a procedure similar to example 43 above, 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid [2-((S)-2-hydroxy-1-methyl-ethylamino)-pyrimidin-5-yl]-amide was prepared from 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid and (S)-2-(5-amino-pyrimidin-2-ylamino)-propan-1-ol. LCMS calcd for C18H16F3N5O3 (m/e) 407, obsd 408 (M+H).

reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | (S)-2-(5-amino-pyrimidin-2-ylamino)-propan-1-ol | NC=1C=NC(=NC1)N[C@H](CO)C | C7H12N4O
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid [2-((S)-2-hydroxy-1-methyl-ethylamino)-pyrimidin-5-yl]-amide | OC[C@H](C)NC1=NC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C18H16F3N5O3
